US04242517
110 g of 2-ethyl-4-methylimidazole are dissolved in 400 ml of toluene at 50° C. 30 g of paraformaldehyde are introduced into this solution, whilst stirring. The mixture is then stirred for 16 hours at 50°-55° C. and is cooled in an icebath, and the crystal slurry is filtered off. The resulting crude product is recrystallized from 300 ml of acetone. 130 g of 1-hydroxymethyl-2-ethyl-4-methylimidazole (corresponding to a yield of 92.9% of theory), of melting point 83.1°-86.3° C., are obtained.

reactant | 2-ethyl-4-methylimidazole | 110 g | C(C)C=1NC=C(N1)C | C6H10N2
reactant | paraformaldehyde | 30 g | C=O | CH2O
solvent | toluene | 400 ml | C1(=CC=CC=C1)C | C7H8
product | 1-hydroxymethyl-2-ethyl-4-methylimidazole | 130 g, yield of 92.9% | OCN1C(=NC(=C1)C)CC | C7H12N2O
